2158-01-22 11:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Sedated.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Erythromycin Base
   Diarrhea; thrus
   Shellfish Derived
   Nausea/Vomiting
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2158-1-22**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-1-22**] 08:45 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-1-22**] 07:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-1-22**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**60**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 60 (60 - 79) bpm
   BP: 120/67(83) {94/51(64) - 139/78(96)} mmHg
   RR: 16 (9 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
   CVP: 12 (12 - 19)mmHg
   Total In:
                                                                    108 mL
                                                                  2,753 mL
   PO:
   TF:
   IVF:
                                                                     48 mL
                                                                  2,643 mL
   Blood products:
   Total out:
                                                                    135 mL
                                                                    193 mL
   Urine:
                                                                    135 mL
                                                                    193 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -27 mL
                                                                  2,561 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.41/42/124/27/2
   Ve: 5.1 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, limited ROM of extremities
   Labs / Radiology
   9.4 g/dL
   193 K/uL
   157 mg/dL
   0.2 mg/dL
   27 mEq/L
   4.0 mEq/L
   31 mg/dL
   106 mEq/L
   139 mEq/L
   30.2 %
   9.9 K/uL
        [image002.jpg]
                             [**2158-1-21**]  09:23 PM
                             [**2158-1-22**]  03:54 AM
                             [**2158-1-22**]  04:13 AM
   WBC
   9.9
   Hct
   30.2
   Plt
   193
   Cr
   0.2
   TCO2
   31
   28
   Glucose
   157
   Other labs: Differential-Neuts:92.6 %, Lymph:2.8 %, Mono:4.2 %, Eos:0.3
   %, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent.  Unclear etiology, but likely
   multifactorial.  [**Month (only) 8**] be component of acute respiratory failure on
   background of chronic pulmonary failure.  Etiology of acute
   decompensation not obvious, but may include pneumonia.  No evidence for
   acute pulmoanry embolism.  Atalectasis contributing to oxygen
   requirement.  Underlying pulmonary HTN and ILD.  Continue mechanical
   ventilation.  [**Month (only) 8**] require drainage of pleural effusion to assist in
   lung reexpansion.  Adjust ventilator to maintain ABG pH 7.30-7.35, pO2
   >90%.
   PLEURAL EFFUSIONS -- exudative right pleural effusion by most recent
   diagnostic thoracentesis.  No obvious pneumonia, no evidence for
   empyema or complicated pleural effusion (doubt TB).  Concern for
   rheumatoid related process or malignancy.  Would favor complete
   drainage of effusions to allow trapped lung to reexpand --> IP/Thoracic
   Surgery consultation for right chest catheter placement, ?pleuroscopy.
   Await pending labs and cytology on pleural fluid.  Would favor repeat
   Chest CT if able to drain effusion completely.
   PULMONARY INFILTRATES
 reportedly with underlying ILD (?rheumatoid
   lung), but concerned for superimposed process, including acute
   infection.  At risk for opportunistic infection (ex. Pneumocystis
   pneumonia in pt. receiving chronic corticosterods).  Plan bronchoscopy
   with BAL.  Continue empirical antimicrobials.
   HYPOTENSION
 likely attributable to sedation at time of intubation.
   Would check cardiac echo.  Monitor BP, Maintain MAP > 60 mmHg.
   HYPONATREMIA -- improving.  Monitor serial Na+
   FLUIDS
 Suspect hypovolemia.  Plan continue net resussitation, gentle.
   RENAL FUNCTION
 preserved.  Monitor urine output, Bun, creatinine.
   TACHY-BRADY SyNDROME -- s/p pacemaker placement.  Native rate
   acceptable.
   RHEUMATOID ARTHRITIS
 severely debilitated.  Maintain usual
   medication, including taper
   NUTRITIONAL SUPPORT -- Continue TF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-1-21**] 08:41 PM
   Multi Lumen - [**2158-1-21**] 08:42 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  Updated medical condition during family
   meeting.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2158-01-23 08:10:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 BRONCHOSCOPY - At [**2158-1-22**] 03:00 PM
   - IP attempted to place pigtail, got some fluid but couldn't place
   catheter. Plan is CT-guided [**Female First Name (un) **] and pigtail drain placement, down the
   road may consider VATS. No PTX on CXR.
   - bronch showed large amt clear secretions
   - urine remained low, urine lytes showed UNA<10, osm 770, consistent
   with intravascular depletion. CVP fluctuating so unsure of validity,
   but [**6-26**] in PM. Pt received 1L boluses x 3 with only minimal urine
   output response (100-200cc per 1L).
   - marginal BPs overnight 80-90s, with stable but borderline urine
   output, sent for repeat urine lytes in AM to help assess volume status
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsErythromycin Base
   Diarrhea; thrus
   Shellfish Derived
   Nausea/Vomiting
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2158-1-22**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-1-23**] 07:54 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2158-1-22**] 01:10 PM
   Fentanyl - [**2158-1-22**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2158-1-23**] 07:56 AM
   Other medications:
   Changes to medical and family history:
   unable to obtain [**2-21**] sedation
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-1-23**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**60**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 63 (60 - 67) bpm
   BP: 116/63(78) {88/50(62) - 125/71(87)} mmHg
   RR: 17 (4 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 12 (8 - 15)mmHg
   Total In:
                                                                  7,871 mL
                                                                    605 mL
   PO:
   TF:
                                                                    280 mL
   IVF:
                                                                  7,231 mL
                                                                    375 mL
   Blood products:
   Total out:
                                                                    505 mL
                                                                    190 mL
   Urine:
                                                                    505 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,366 mL
                                                                    415 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 31.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.36/44/87.[**Numeric Identifier 7**]/24/0
   Ve: 5.1 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   172 K/uL
   8.8 g/dL
   129 mg/dL
   0.3 mg/dL
   24 mEq/L
   4.0 mEq/L
   24 mg/dL
   106 mEq/L
   137 mEq/L
   28.6 %
   10.9 K/uL
        [image002.jpg]
                             [**2158-1-21**]  09:23 PM
                             [**2158-1-22**]  03:54 AM
                             [**2158-1-22**]  04:13 AM
                             [**2158-1-22**]  05:06 PM
                             [**2158-1-23**]  04:50 AM
   WBC
   9.9
   10.9
   Hct
   30.2
   28.6
   Plt
   193
   172
   Cr
   0.2
   0.3
   TCO2
   31
   28
   26
   Glucose
   157
   129
   Other labs: PT / PTT / INR:13.8/24.9/1.2, Differential-Neuts:92.6 %,
   Lymph:2.8 %, Mono:4.2 %, Eos:0.3 %, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.6 mg/dL
   Microbiology: [**2158-1-22**] 3:33 pm BRONCHOALVEOLAR LAVAGE      BRONCHIAL
   LAVAGE.
      GRAM STAIN (Final [**2158-1-22**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      Immunoflourescent test for Pneumocystis jirovecii (carinii)
         (Preliminary):
      VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary):
   Assessment and Plan
   72 y.o. Female w/ longstanding RA, tachy-brady syndrome s/p PPM, A. fib
   with RVR not anticoagulated [**2-21**] GI bld, s/p recent d/c for PNA w/
   ?sepsis initially admitted to [**Location (un) 3**] for dyspnea s/p intubation for
   ?hypercapneic resp failure w/ exudative pleural effusions.
   ##. Hypercapneic Respiratory Failure s/p Intubation: Pt was electively
   intubated for concern of hypercapnea. Given pH readings were 7.39-7.41
   in the setting of pCO2 of 69 suspect that pt may have recently become a
   chronic CO2 retainer, either from OSA and Obesity Hypoventilation
   Syndrome. Barriers to extubation include possible central muscle
   weakness, pleural effusions. Pt has been on steroids chronically and on
   review with the family it appears her activity level has decompensated
   considerably. Pleural Effusion on prior CT scan also showed RML and RLL
   compression, likely reponsible for her initial dyspnea presentation.
   Will need to maximize lung capcity via effusion reduction.
   - f/u NIF
   - consult IP in the AM for possible pigtail placement in Rt pleural
   effusion
   - wean sedation as tolerated
   - RSBI in AM
   ,
   ##. Pleural Effusion: Given the large size of the effusion as well as
   the resulting compression of the RLL and RML on CT scan I suspect that
   this may be the cause of her dyspnea on presentation. Pt underwent
   diagnostic tap at OSH which was notable for an exudative effusion, pH
   >7, Glc  127. Pt's progression of dyspnea also correlates with slow
   accumulation of effusion. Ddx for exudative effusion include
   infectious, malignancy, auto-immune. Infectious on differential as it
   is most common cause of effusion though pt showed no leukocytosis,
   cough, sputum production on presentation. Pt is currently
   immunosuppressed on her chronic steroid dosing for [**Last Name (LF) **], [**First Name3 (LF) **] at high risk
   for an infectious process. Will perform BAL in the AM to check for
   infectious process, start on Vanc/Zosyn for empiric coverage.
   Malignancy is also on differential, cytology is currently pending, tap
   appeared to be amber in colour. Rheum pleurisy is another consideration
   however would expect a low glc.  Now s/p BAL.
   - plan for CT guided [**Female First Name (un) **]/pigtail placement today
   - continue Zosyn/Vanc for empiric coverage
   - f/u sputum cx, cell count, fungal
   - will re-image CT chest following pigtail placement
   .
   ##Poor Urine Output:  Bolus PRN.
   Urine lytes suggest intravascular volume depletion
   - consider TTE today to eval systolic function
   .
   ##. Hyponatremia: Pt was noted to be hyponatremic on admission to
   [**Location (un) 3**] with 123, corrected up to 133 with IVF. Resolved to 139 here
   with NS bolus overnight.
   - trend Na
   .
   ##. A. Fib with RVR: Pt was noted to be in A. fib with RVR
   peri-intubation. Unclear as to whether she her nodal agents were held
   in the setting of hypotension versus hypotension occuring in the
   setting of A. fib with RVR. Pt converted to sinus spontaneously when
   placed on her home regimen of digoxin at OSH. Pt currently in sinus
   rhythm, not anticoagulated given h.o. GI bleed.
   - will continue on ASA 325mg
   -currently paced at 60 with good rate control
   - will continue on digoxin, Diltiazem and Metoprolol
   .
   ##. RA: Will continue pt on home regimen of plaquenil. Pt currently on
   Solumedrol, will wean down to home regimen of Prednisone.
   - wean down to home regimen of Prednisone once pigtail is placed.
   ##. GERD: Continue on home regimen of Prevacid.
   ##. UTI: Pt has +Urine Cx for Enterococcus, will continue on Zosyn and
   call lab in the AM for culture results.
   ##. FEN: Pt currently on TF Neutropulm with a goal of 40cc/hr. Will
   obtain Nutrition consult.
   - f/u Nutrition recs
   ##. Ppx: Pt on Lansoprazole, Heparin for DVT prophylaxis.
   ##. ACCESS: PIV's
   ##. CODE STATUS: FULL CODE (confirmed with family)
   ##. EMERGENCY CONTACT: [**Name (NI) 938**] [**Name (NI) 10822**] (Husband + HCP) (c) [**Telephone/Fax (1) 10823**]; (h)
   [**Telephone/Fax (1) 10824**]
   ##. DISPOSITION: [**Hospital Unit Name 4**] pending resolution of symptoms.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-1-21**] 08:41 PM
   Multi Lumen - [**2158-1-21**] 08:42 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:    none
   VAP:  vanc/zosyn
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-01-24 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - TTE -> [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2315**]. LV wall thickness, cavity size
   and regional/global systolic function are normal (LVEF >55%). RV
   chamber size and free wall motion are normal. AV leaflets (3) are
   mildly thickened but AS is not present. MV leaflets are mildly
   thickened. No MVP. Mild (1+) MR is seen. The TV leaflets are mildly
   thickened. Moderate [2+] TR is seen. There is moderate pulmonary artery
   systolic hypertension. There is no pericardial effusion
   - no response to lasix 20 mg IV
   - plan to d/c Abx after today if no s/s of infection
   - re: ventilation, assuming hypovent with mild hypercapnia at
   baselines, allowing CO2 to rise on vent
   - consider adding RF and complement level to pleural fluid -> call chem
   resident tomorrow, pager [**Numeric Identifier 10874**]
   - per family, pt oliguric since [**2158-1-11**], has indwelling foley at home,
   300-400 cc daily for 5 days prior to admission at [**Hospital1 5**] [**Location (un) 3**]
   - ? family meeting tomorrow re: extubation/goals of care
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2158-1-23**] 08:45 AM
 THORACENTESIS - At [**2158-1-23**] 01:41 PM
   Allergies:
   Erythromycin Base
   Diarrhea; thrus
   Shellfish Derived
   Nausea/Vomiting
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2158-1-23**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-1-24**] 12:10 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2158-1-23**] 01:30 PM
   Heparin Sodium (Prophylaxis) - [**2158-1-23**] 03:59 PM
   Furosemide (Lasix) - [**2158-1-23**] 04:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-1-24**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**60**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 69 (60 - 86) bpm
   BP: 106/58(72) {90/47(59) - 118/68(82)} mmHg
   RR: 27 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 8 (7 - 14)mmHg
   Total In:
                                                                  2,132 mL
                                                                    626 mL
   PO:
   TF:
                                                                    234 mL
                                                                    248 mL
   IVF:
                                                                  1,468 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                    742 mL
                                                                     80 mL
   Urine:
                                                                    442 mL
                                                                     80 mL
   NG:
   Stool:
   Drains (pleural):
                                                                       300
   Balance:
                                                                  1,390 mL
                                                                    546 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 263 (263 - 312) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 167
   PIP: 16 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.35/47/111/24/0
   NIF: -12 cmH2O
   Ve: 7.1 L/min
   PaO2 / FiO2: 370
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   171 K/uL
   5.8 g/dL
   145 mg/dL
   0.3 mg/dL
   24 mEq/L
   3.9 mEq/L
   31 mg/dL
   106 mEq/L
   136 mEq/L
   18.8 %
   19.9 K/uL
        [image002.jpg]
                             [**2158-1-21**]  09:23 PM
                             [**2158-1-22**]  03:54 AM
                             [**2158-1-22**]  04:13 AM
                             [**2158-1-22**]  05:06 PM
                             [**2158-1-23**]  04:50 AM
                             [**2158-1-23**]  04:16 PM
                             [**2158-1-24**]  04:43 AM
                             [**2158-1-24**]  05:02 AM
   WBC
   9.9
   10.9
   19.9
   Hct
   30.2
   28.6
   18.8
   Plt
   193
   172
   171
   Cr
   0.2
   0.3
   0.3
   TCO2
   31
   28
   26
   25
   27
   Glucose
   157
   129
   145
   Other labs: PT / PTT / INR:14.7/26.6/1.3
   Lactic Acid:1.4 mmol/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL,
   free Ca 1.15
[**2158-1-23**] 1:45 pm PLEURAL FLUID
GRAM STAIN (Final [**2158-1-23**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
[**2158-1-22**] 3:33 pm BRONCHOALVEOLAR LAVAGE      BRONCHIAL LAVAGE.
GRAM STAIN (Final [**2158-1-22**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
 RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
 LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
 Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2158-1-23**]):    NEGATIVE for Pneumocystis jirovecii (carinii)
   Pleural Fluid:
   738 WBC, 59,000 RBC, 13 polys, 51L, 8 mono, 24 macro, 3 meso
   TP 1.6
   Gluc 137
   LDH 164
   TTE: The left atrium is dilated. Left ventricular wall thickness,
   cavity size and regional/global systolic function are normal (LVEF
   >55%). Right ventricular chamber size and free wall motion are normal.
   The aortic valve leaflets (3) are mildly thickened but aortic stenosis
   is not present. The mitral valve leaflets are mildly thickened. There
   is no mitral valve prolapse. Mild (1+) mitral regurgitation is seen.
   The tricuspid valve leaflets are mildly thickened. Moderate [2+]
   tricuspid regurgitation is seen. There is moderate pulmonary artery
   systolic hypertension. There is no pericardial effusion. There is an
   anterior space which most likely represents a fat pad.
   Assessment and Plan
   72 y.o. Female w/ longstanding RA, tachy-brady syndrome s/p PPM, A. fib
   with RVR not anticoagulated [**2-21**] GI bld, s/p recent d/c for PNA w/
   ?sepsis initially admitted to [**Location (un) 3**] for dyspnea s/p intubation for
   ?hypercapneic resp failure w/ exudative pleural effusions.
   ##. Hypercapneic Respiratory Failure s/p Intubation: Pt was electively
   intubated for  hypercapnea. Given pH readings were 7.39-7.41 in the
   setting of pCO2 of 69 suspect that was a chronic CO2 retainer, either
   from OSA and Obesity Hypoventilation Syndrome. Barrier to extubation is
   central muscle weakness. Pt has been on steroids chronically and on
   review with the family it appears her activity level has decompensated
   considerably. NIF -12 supports severe muscle weakness. Pleural Effusion
   on prior CT scan also showed RML and RLL compression but only small
   effusions, likely reponsible for her initial dyspnea presentation but
   unlikely to be causing her current failure to extubate. Currently off
   sedation, so this is not a convuluting factor.
   - neuro consult re: muscle weakness and possible EMG
   - continue current vent settings
   ,
   ## HCT DROP: Hct dropped from 29 to 18 today, repeat showed similar
   result. Most concerning would be hemothorax [**2-21**] thoracentesis
   yesterday. CXR shows worsened infiltrates at upper lobes and stable
   effusions despite thoracentesis. No other obvious source of bleeding.
   - chest CT (non-con) now to evaluate for hemothorax
   - IP vs. IR for repeat [**Female First Name (un) **] and drain placement if bloody
   - send pleural fluid for hematocrit to distinguish bloody effusions
   from hemothorax
   - transfuse 2 U PRBC, repeat post-transfusion Hct
   - q4-6 Hct check depending on post-transf level, transfusion goal>21
   - OGT lavage, guiaic stools
   ##. Pleural Effusion: OSH tap was notable for an exudative effusion, pH
   >7, Glc  127. Ddx for exudative effusion include infectious,
   malignancy, autoimmune (rheum pleurisy). Pt is currently
   immunosuppressed on her chronic steroid dosing for [**Last Name (LF) **], [**First Name3 (LF) **] at high risk
   for an infectious process. On Vanc/Zosyn for empiric coverage. BAL neg
   for infection so far, pleural fluid gram stain neg.
   - continue Zosyn/Vanc for empiric coverage since has new leukocytosis
   today
   - f/u BAL and pleural fluid results
   .
   # Leukocytosis: WBC jumped from 10.9 to 19.9 today. Possibly [**2-21**]
   hemothorax, although concern for new infectious process.
   - pan-cx this AM
   .
   ##Poor Urine Output:  Pt has had low UOP for [**1-21**] wks PTA.
   Urine lytes suggest intravascular volume depletion, but UOP only
   minimally responds to fluid boluses. TTE showed normal systolic
   function, but not reliable in setting of MR. Likely does have impaired
   forward flow and resultant poor renal perfusion. Cr is extremely low at
   baseline suggestive of no muscle mass, and unclear if Cr is good
   measure of GFR due to this.
   - attempt diuresis as BP tolerates and bleeding issue resolved
   - will speak to Dr. [**Last Name (STitle) **] about CHF
   .
   ##. A. Fib with RVR: Pt was noted to be in A. fib with RVR
   peri-intubation. Pt converted to sinus spontaneously when placed on her
   home regimen of digoxin at OSH. Pt currently in sinus rhythm, not
   anticoagulated given h.o. GI bleed.
   - hold  ASA 325mg in setting of bleed
   -currently paced at 60 with good rate control
   - will continue on digoxin, Diltiazem and Metoprolol
   .
   ##. RA: Will continue pt on home regimen of plaquenil. Pt currently on
   Solumedrol, will wean down to home regimen of Prednisone.
   - home regimen 7.5 mg prednisone daily
   ##. GERD: Continue on home regimen of Prevacid.
   ##. UTI: Pt has +Urine Cx for Enterococcus, will continue on Zosyn and
   call lab in the AM for culture results. Repeat urine cx here is neg.
   ##. FEN: Pt currently on TF Neutropulm with a goal of 40cc/hr. Will
   obtain Nutrition consult.
   - f/u Nutrition recs
   ##. Ppx: Pt on Lansoprazole, Heparin for DVT prophylaxis.
   ##. ACCESS: PIV's
   ##. CODE STATUS: FULL CODE (confirmed with family)
   ##. EMERGENCY CONTACT: [**Name (NI) 938**] [**Name (NI) 10822**] (Husband + HCP) (c) [**Telephone/Fax (1) 10823**]; (h)
   [**Telephone/Fax (1) 10824**]
   ##. DISPOSITION: [**Hospital Unit Name 4**] pending resolution of symptoms.
   ICU Care
   Nutrition: TF
   Nutren Pulmonary (Full) - [**2158-1-23**] 02:14 PM 36 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-1-21**] 08:41 PM
   Multi Lumen - [**2158-1-21**] 08:42 PM (IJ)
   Prophylaxis:
   DVT: SCH
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments: husband and daughter
   [**Name (NI) 156**] status: Full code
   Disposition:

2158-01-25 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - XRAY read as negative for disslocated shoulder
   - CT-Chest not consistent with hemothorax
   - flipped into AFIB with RVR, got Dilt 20mg IV, 30mg IV, currently on
   drip
   - Neuro saw her thinks its steroid myopathy
   - We started tapering her steorids
   24 Hour Events:
 EKG - At [**2158-1-24**] 11:23 PM
   Allergies:
   Erythromycin Base
   Diarrhea; thrus
   Shellfish Derived
   Nausea/Vomiting
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2158-1-24**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-1-25**] 12:29 AM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Fentanyl - [**2158-1-24**] 10:46 PM
   Heparin Sodium (Prophylaxis) - [**2158-1-25**] 12:29 AM
   Lorazepam (Ativan) - [**2158-1-25**] 12:30 AM
   Diltiazem - [**2158-1-25**] 12:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-1-25**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**60**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 133 (76 - 141) bpm
   BP: 100/61(72) {91/43(57) - 135/79(97)} mmHg
   RR: 20 (16 - 32) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
    CVP: 6 (1 - 10)mmHg
   Total In:
                                                                  2,934 mL
                                                                    574 mL
   PO:
   TF:
                                                                    864 mL
                                                                    266 mL
   IVF:
                                                                  1,180 mL
                                                                    308 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    625 mL
                                                                    240 mL
   Urine:
                                                                    625 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,309 mL
                                                                    334 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 372 (316 - 425) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   SpO2: 95%
   ABG: 7.50/32/76.[**Numeric Identifier 299**]/21/1
   NIF: -8 cmH2O
   Ve: 9.9 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   149 K/uL
   9.2 g/dL
   178 mg/dL
   0.3 mg/dL
   21 mEq/L
   4.3 mEq/L
   30 mg/dL
   107 mEq/L
   138 mEq/L
   26.3 %
   25.5 K/uL
        [image002.jpg]
                             [**2158-1-23**]  04:50 AM
                             [**2158-1-23**]  04:16 PM
                             [**2158-1-24**]  04:43 AM
                             [**2158-1-24**]  05:02 AM
                             [**2158-1-24**]  07:39 AM
                             [**2158-1-24**]  08:09 AM
                             [**2158-1-24**]  07:27 PM
                             [**2158-1-25**]  02:02 AM
                             [**2158-1-25**]  02:16 AM
                             [**2158-1-25**]  05:22 AM
   WBC
   10.9
   19.9
   21.9
   25.5
   Hct
   28.6
   18.8
   18.8
   25.8
   26.3
   Plt
   172
   171
   182
   149
   Cr
   0.3
   0.3
   0.3
   TCO2
   25
   27
   26
   25
   26
   Glucose
   129
   145
   178
   Other labs: Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Cortisol 51.1
   Haptoglobin 296
   Shoulder X-ray: no dislocation
   CXR: pending
   Pleural fluid analysis: cx NGTD
   TP fluid/serum= 0.4
   LDH fluid/serum= 0.4
 transudative
   Assessment and Plan
   72 y.o. Female w/ longstanding RA, tachy-brady syndrome s/p PPM, A. fib
   with RVR not anticoagulated [**2-21**] GI bld, s/p recent d/c for PNA w/
   ?sepsis initially admitted to [**Location (un) 3**] for dyspnea s/p intubation for
   ?hypercapneic resp failure w/ exudative pleural effusions.
   ##. Hypercapneic Respiratory Failure s/p Intubation: Pt was initially
   intubated for acute hypercapnea [**2-21**] pleural effusions in setting of
   chronic CO2 retention. Effusions are now minimal in size and primary
   barrier to extubation is central muscle weakness. Pa/Fi02 ratio
   indicates [**Doctor Last Name 76**] today, and currently has respiratory alkalosis with
   appropriate metabolic compensation
   - appreciate neuro recs: Ach Ab, aldolase pending- steroid myopathy is
   possible
   - will speak to neuromuscular re: EMG
   - wean steroids 60 to 40 mg IV q8, wean further in AM
   .
   ##. A. Fib with RVR: Pt was noted to be in A. fib with RVR
   peri-intubation. Pt converted to sinus spontaneously when placed on her
   home regimen of digoxin at OSH. Pt returned to AF with RVR overnight.
   Rate controlled with IV dilt then dilt gtt, Fentanyl gtt.
   Rate currently 150-170s, received extra dose 0.5mg dig and lopressor
   5mg x 3.
   - bolus Fentanyl prn to treat pain/anxiety component
   - start amiodarone gtt
   - cont prior home dose digoxin, dig level 1.5 indicates pt was
   appropriately dig-loaded
   - hold  ASA 325mg in setting of Hct drop
   .
   #. C dif: Leukocytosis continues to rise today. C dif positive and pt
   having frequent loose BM.
   - PO Flagyl
   - monitor fever curve, WBC, symptomatic improvement
   - treat aggressively since pt is at high risk of relapse
   ,
   ## HCT DROP: Hct dropped from 29 to 18 yesterday, stabilized with 2U
   PRBCs and remains stable. Chest CT did not show e/o hemothorax and only
   showed trace effusions. OGT lavage neg. No bloody BM. No other obvious
   source of bleeding.
   - monitor Hct [**Hospital1 **]
   ##. Pleural Effusion: OSH tap was notable for an exudative effusion, pH
   >7, Glc  127. Thoracentesis here showed transudative picture. Most
   likely explanation is that OSH tap was done after extensive diuresis
   and was more likely falsely concentrated (pseudo-exudative) No e/o
   infection in lungs, but does have increasing leukocytosis.
   - D/C vanco as pt now has other etiology for leukocytosis and there
   does not appear to be any infectious process in lungs
   .
   ##Poor Urine Output:  Pt has had low UOP for [**1-21**] wks PTA.
   Urine lytes suggest intravascular volume depletion, but UOP only
   minimally responds to fluid boluses. TTE showed normal systolic
   function, but not reliable in setting of MR. Likely does have impaired
   forward flow and resultant poor renal perfusion. Cr is extremely low at
   baseline suggestive of no muscle mass, and unclear if Cr is good
   measure of GFR due to this.
   - hold off diuresis today in setting of AF/RVR and borderline BPs with
   rate control
   - will speak to Dr. [**Last Name (STitle) **] about CHF
   .
   ##. RA: Will continue pt on home regimen of plaquenil. Pt currently on
   Solumedrol, will wean down to home regimen of Prednisone.
   - weaning down steroids q 2 days, 40 mg methylpred today
   ##. GERD: Continue on home regimen of Prevacid.
   .
   ##. FEN: Pt currently on TF Neutropulm with a goal of 40cc/hr.
   - f/u Nutrition recs
   ##. Ppx: Pt on Lansoprazole, Heparin for DVT prophylaxis.
   ##. ACCESS: R IJ
   ##. CODE STATUS: FULL CODE (confirmed with family)
   ##. EMERGENCY CONTACT: [**Name (NI) 938**] [**Name (NI) 10822**] (Husband + HCP) (c) [**Telephone/Fax (1) 10823**]; (h)
   [**Telephone/Fax (1) 10824**]
   ##. DISPOSITION: [**Hospital Unit Name 4**]

2158-01-26 07:43:00 Physician Resident Progress Note
Chief Complaint: hypercapneic resp failure/failure to thrive
   24 Hour Events:
   - AF with RVR, poorly rate controlled (150-160s) on dilt drip
   - bolused amio and started drip, still not rate controlled, re-bolused
   amio 150 mg --> rate 140-150s with BP 70/50 (MAP 60)
   - EP curbside rec DC cardioversion and continuing amiodarone to
   maintain sinus afterwards, held off until AM and rates stayed 120-130s
   with decent MAPs
   - received 500cc NS and 1 U PRBC to keep up pressures (Hct 26 to 23)
   - fam mtg: would not want trach or CPR, pressors OK, will continue to
   attempt optimization for [**2-22**] d then extubate
   - cont on Zosyn for enterococcus UTI (day 7/10-14d course)
   - neuromusc attg consulted --> rec MRI C, T spine to evaluate cord
   compression in setting of recent compression fractures, EMG to r/o ALS
   only if patient stable for transport since will not affect outcome
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsErythromycin Base
   Diarrhea; thrus
   Shellfish Derived
   Nausea/Vomiting
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2158-1-25**] 08:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-1-25**] 10:30 PM
   Metronidazole - [**2158-1-26**] 04:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Amiodarone - [**2158-1-25**] 11:26 AM
   Fentanyl - [**2158-1-25**] 02:25 PM
   Other medications:
   Changes to medical and family history:
   denies pain this A.M.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2158-1-26**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**60**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 124 (115 - 152) bpm
   BP: 108/74(85) {74/52(60) - 109/87(92)} mmHg
   RR: 23 (11 - 32) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
    CVP: 14 (12 - 19)mmHg
   Total In:
                                                                  4,800 mL
                                                                    272 mL
   PO:
   TF:
                                                                    653 mL
   IVF:
                                                                  3,772 mL
                                                                    272 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    505 mL
                                                                    145 mL
   Urine:
                                                                    505 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,295 mL
                                                                    127 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: Hemodynamic Instability
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 96%
   ABG: 7.48/29/84.[**Numeric Identifier 117**]/20/0
   Ve: 7.1 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, chronically
   ill-appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, irregularly
   irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, quiet bowel sounds
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   141 K/uL
   9.0 g/dL
   153 mg/dL
   0.4 mg/dL
   20 mEq/L
   3.4 mEq/L
   37 mg/dL
   107 mEq/L
   136 mEq/L
   25.2 %
   34.4 K/uL
        [image002.jpg]
                             [**2158-1-24**]  07:39 AM
                             [**2158-1-24**]  08:09 AM
                             [**2158-1-24**]  07:27 PM
                             [**2158-1-25**]  02:02 AM
                             [**2158-1-25**]  02:16 AM
                             [**2158-1-25**]  05:22 AM
                             [**2158-1-25**]  06:10 PM
                             [**2158-1-25**]  11:51 PM
                             [**2158-1-26**]  03:53 AM
                             [**2158-1-26**]  04:59 AM
   WBC
   21.9
   25.5
   35.6
   34.4
   Hct
   18.8
   25.8
   26.3
   23.4
   26.2
   25.2
   Plt
   182
   149
   138
   141
   Cr
   0.3
   0.4
   TCO2
   26
   25
   26
   22
   Glucose
   178
   153
   Other labs: PT / PTT / INR:15.3/26.1/1.3, CK / CKMB / Troponin-T:55//,
   Alk Phos / T Bili:/0.6, Differential-Neuts:92.9 %, Lymph:2.4 %,
   Mono:4.3 %, Eos:0.2 %, Lactic Acid:1.4 mmol/L, LDH:376 IU/L, Ca++:7.4
   mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Microbiology: [**2158-1-23**] 1:45 pm PLEURAL FLUID
      GRAM STAIN (Final [**2158-1-23**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      FLUID CULTURE (Preliminary):    NO GROWTH.
      ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
   C.diff (+)
   /[**3-29**] 3:33 pm BRONCHOALVEOLAR LAVAGE      BRONCHIAL LAVAGE.
      GRAM STAIN (Final [**2158-1-22**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2158-1-24**]):    NO GROWTH, <1000 CFU/ml.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2158-1-23**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
      VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary):
         No Virus isolated so far.
   [**2158-1-24**] urine cx (-)
   ECG: tele- a. fib with RVR
   Assessment and Plan
   72 y.o. Female w/ longstanding RA, tachy-brady syndrome s/p PPM, A. fib
   with RVR not anticoagulated [**2-21**] GI bld, s/p recent d/c for PNA w/
   ?sepsis initially admitted to [**Location (un) 3**] for dyspnea s/p intubation for
   ?hypercapneic resp failure w/ ? exudative pleural effusions.
   ##. Hypercapneic Respiratory Failure s/p Intubation: Pt was initially
   intubated for acute hypercapnea [**2-21**] pleural effusions in setting of
   chronic CO2 retention. Effusions are now minimal in size and primary
   barrier to extubation is central muscle weakness.
   - appreciate neuro recs: Ach Ab, aldolase pending- steroid myopathy on
   differential
   - apprectiate neuromuscular recs -> unable to get MR due to PPM, will
   consider CT neck
   - wean steroids to 20 mg IV q8
   .
   ##. A. Fib with RVR: Pt was noted to be in A. fib with RVR
   peri-intubation. Pt converted to sinus spontaneously when placed on her
   home regimen of digoxin at OSH. Pt returned to AF with RVR, difficult
   rate control yesterday. Rate initially controlled with IV dilt then
   dilt gtt, Fentanyl gtt.   Receiving amio load, transiently in NSR this
   morning, now back in a. fib.  Rate currently 100s.  Hopefully treating
   C. diff infection will aid management of a. fib.
   - cont amiodarone load orally
   - DC cardioversion if refractory hypotension
   - decrease digoxin by half given interaction with amio
   - hold  ASA 325mg in setting of recentHct drop
   .
   #. C dif: Leukocytosis continues to rise today. C dif positive and pt
   having frequent loose BM.
   - IV Flagyl, unable to tolerate PO
   - monitor fever curve, WBC, symptomatic improvement
   - treat aggressively since pt is at high risk of relapse
   ,
   ## HCT DROP: Hct dropped from 29 to 18 2 days ago, stabilized with 2U
   PRBCs and remains stable. Chest CT did not show e/o hemothorax and only
   showed trace effusions. OGT lavage neg. No bloody BM. No other obvious
   source of bleeding.
   - monitor Hct [**Hospital1 **]
   ##. Pleural Effusion: OSH tap was notable for an exudative effusion, pH
   >7, Glc  127. Thoracentesis here showed transudative picture. Most
   likely explanation is that OSH tap was done after extensive diuresis
   and was more likely falsely concentrated (pseudo-exudative) No e/o
   infection in lungs.
   .
   ##Poor Urine Output:  Pt has had low UOP for [**1-21**] wks PTA.
   Urine lytes suggest intravascular volume depletion, but UOP only
   minimally responds to fluid boluses. TTE showed normal systolic
   function, but not reliable in setting of MR. Likely does have impaired
   forward flow and resultant poor renal perfusion. Cr is extremely low at
   baseline suggestive of no muscle mass, and unclear if Cr is good
   measure of GFR due to this.
   - hold off diuresis in setting of recurrent AF/RVR and borderline BPs
   with rate control
   .
   ##. RA: Will continue pt on home regimen of plaquenil. Pt currently on
   Solumedrol, will wean down to home regimen of Prednisone.
   - weaning down steroids q 2 days, 20 mg methylpred today
   ##. GERD: Continue on home regimen of Prevacid.
   .
   ##. FEN: Pt currently on TF Neutropulm with a goal of 40cc/hr.
   - f/u Nutrition recs
   ##. Ppx: Pt on Lansoprazole, Heparin for DVT prophylaxis.
   ##. ACCESS: R IJ, left radial line
   ##. CODE STATUS:  Do not resuscitate (DNR/DNI) Discussion between Dr.
   [**Name (NI) **], husband and daughter on [**2158-1-25**] while pt currently intubated in
   [**Hospital Unit Name 4**]. Cardioversion for AF with RVR is still acceptable, no chest
   compressions.
   ##. EMERGENCY CONTACT: [**Name (NI) 938**] [**Name (NI) 10822**] (Husband + HCP) (c) [**Telephone/Fax (1) 10823**]; (h)
   [**Telephone/Fax (1) 10824**]
   ##. DISPOSITION: [**Hospital Unit Name 10062**] Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-1-21**] 08:41 PM
   Multi Lumen - [**2158-1-21**] 08:42 PM
   Prophylaxis:
   DVT:   see above1
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: see above
   Disposition:

2158-01-27 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - briefly in NSR today during amio load, unfortunately
   a. fib recurred later in day, increased amio load to 400 mg TID for 7
   days
   - no new Neuromuscular recs, our ? is utility of CT C-spine, as PPM
   prevents MR [**Name13 (STitle) 9454**]
   - weaned steroids again today
   - halved digoxin dose given amio interaction
   24 Hour Events:
   Allergies:
   Erythromycin Base
   Diarrhea; thrus
   Shellfish Derived
   Nausea/Vomiting
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2158-1-25**] 08:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-1-27**] 12:00 AM
   Metronidazole - [**2158-1-27**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2158-1-26**] 07:56 AM
   Furosemide (Lasix) - [**2158-1-26**] 12:14 PM
   Fentanyl - [**2158-1-26**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2158-1-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-1-27**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**60**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 105 (74 - 132) bpm
   BP: 82/54(61) {66/46(55) - 114/78(89)} mmHg
   RR: 25 (11 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
    CVP: 11 (8 - 15)mmHg
   Total In:
                                                                  1,230 mL
                                                                    329 mL
   PO:
   TF:
   IVF:
                                                                    940 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                    205 mL
   Urine:
                                                                    975 mL
                                                                    205 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
                                                                    600 mL
   Balance:
                                                                   -445 mL
                                                                    124 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 197 (197 - 328) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 207
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   Compliance: 69 cmH2O/mL
   SpO2: 97%
   ABG: ///24/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: intubated, responsive Overweight / Obese,
   chronically ill-appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, irregularly
   irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, quiet bowel sounds
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, ecchymoses over right thigh/groin
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   121 K/uL
   7.0 g/dL
   99 mg/dL
   0.3 mg/dL
   24 mEq/L
   3.5 mEq/L
   32 mg/dL
   107 mEq/L
   138 mEq/L
   20.9 %
   21.3 K/uL
        [image002.jpg]
                             [**2158-1-24**]  07:27 PM
                             [**2158-1-25**]  02:02 AM
                             [**2158-1-25**]  02:16 AM
                             [**2158-1-25**]  05:22 AM
                             [**2158-1-25**]  06:10 PM
                             [**2158-1-25**]  11:51 PM
                             [**2158-1-26**]  03:53 AM
                             [**2158-1-26**]  04:59 AM
                             [**2158-1-27**]  03:42 AM
                             [**2158-1-27**]  06:00 AM
   WBC
   25.5
   35.6
   34.4
   21.3
   Hct
   25.8
   26.3
   23.4
   26.2
   25.2
   20.7
   20.9
   Plt
   149
   138
   141
   121
   Cr
   0.3
   0.4
   0.3
   TCO2
   25
   26
   22
   Glucose
   178
   153
   99
   Other labs: PT / PTT / INR:14.8/36.7/1.3
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
ALDOLASE                      12.7  H             <=8.1 U/L
   Assessment and Plan
   72 y.o. Female w/ longstanding RA, tachy-brady syndrome s/p PPM, A. fib
   with RVR not anticoagulated [**2-21**] GI bld, s/p recent d/c for PNA w/
   ?sepsis initially admitted to [**Location (un) 3**] for dyspnea s/p intubation for
   hypercapneic resp failure w/ bilateral pleural effusions.
   ##. Hypercapneic Respiratory Failure s/p Intubation: Pt was initially
   intubated for acute hypercapnea [**2-21**] pleural effusions in setting of
   chronic CO2 retention. Effusions are now minimal in size per CT and
   primary barrier to extubation is central muscle weakness. Pt has had
   indolent decline for 6 months. Ddx includes autoimmune myositis,
   degenerative neuropathy (ALS), cord compression [**2-21**] multiple
   compression fractures. Steroid myopathy and ICU myositis seem less
   likely given course.  Aldolase elevated.
   - appreciate neuro recs: Ach Ab, myoglobin pending
   - could consider anti-Jo1 for autoimmune polymyositis and EMG but
   unlikely to see significant improvement in the near future with
   treatment, has already been on several days high dose steroids and has
   multiple other medical issues that contribute to poor prognosis
   - apprectiate neuromuscular recs -> unable to get MR due to PPM
   - continue to wean steroids (day 2 of 20 mg IV q8, which is equivalent
   to 75mg daily of prednisone, 10 times home dose)
   - likely terminal extubation today
   .
   ##. A. Fib with RVR: Rate has been difficult to control. On amiodarone
   load and half-home dose digoxin. Rates 100s, improved since yesterday.
   Hopefully treating C. diff infection will aid management of a. fib.
   - cont amiodarone load orally at 400 mg TID
   - DC cardioversion if refractory hypotension
   - decrease digoxin by half given interaction with amio
   - hold  ASA 325mg in setting of recentHct drop
   .
   #. C dif: Leukocytosis decreasing, afebrile.
   - IV Flagyl (D3), unable to tolerate PO
   - monitor fever curve, WBC, symptomatic improvement
   - treat aggressively since pt is at high risk of relapse
   ,
   ## HCT DROP: Hct dropped from 29 to 18 2 days ago, stabilized with 2U
   PRBCs and remains stable. Chest CT did not show e/o hemothorax and only
   showed trace effusions. OGT lavage neg. No bloody BM. Hct dropped again
   overnight 25 to 20, again with no obvious source.
   - hemolysis labs, DIC labs
   - monitor Hct [**Hospital1 **]
   - would consider CT AB/PELV and thigh if clinically more stable
   .
   #. Coagulopathy: worsened today with elevated PT, PTT and declining
   platelets.
   - added on DIC labs
   - may be nutritional component given chronic illness, will replete
   vitamin K today since bleeding
   ##. Pleural Effusion: OSH tap was notable for an exudative effusion, pH
   >7, Glc  127. Thoracentesis here showed transudative picture. Most
   likely explanation is that OSH tap was done after extensive diuresis
   and was more likely falsely concentrated (pseudo-exudative) No e/o
   infection in lungs. CXR stable.
   .
   ##Poor Urine Output:  Pt has had low UOP for [**1-21**] wks PTA.
   Urine lytes suggest intravascular volume depletion, but UOP only
   minimally responds to fluid boluses. TTE showed normal systolic
   function, but not reliable in setting of MR. Likely does have impaired
   forward flow and resultant poor renal perfusion. Cr is extremely low at
   baseline suggestive of no muscle mass, and unclear if Cr is good
   measure of GFR due to this.
   - consider attempting very gentle diuresis today if rate control/BP
   stable, however unlikely that kidneys will mount good response and
   patient not candidate for HD given poor prognosis
   .
   ##. RA: Will continue pt on home regimen of plaquenil. Pt currently on
   Solumedrol, will wean down to home regimen of Prednisone.
   - weaning down steroids q 2 days, 20 mg methylpred today
   ##. GERD: Continue on home regimen of Prevacid.
   .
   ##. FEN: Pt currently on TF Neutropulm with a goal of 40cc/hr.
   - f/u Nutrition recs
   ##. Ppx: Pt on Lansoprazole, Heparin for DVT prophylaxis.
   ##. ACCESS: R IJ, left radial line
   ##. CODE STATUS:  Do not resuscitate (DNR/DNI) Discussion between Dr.
   [**Name (NI) **], husband and daughter on [**2158-1-25**] while pt currently intubated in
   [**Hospital Unit Name 4**]. Cardioversion for AF with RVR is still acceptable, no chest
   compressions.
   ##. EMERGENCY CONTACT: [**Name (NI) 938**] [**Name (NI) 10822**] (Husband + HCP) (c) [**Telephone/Fax (1) 10823**]; (h)
   [**Telephone/Fax (1) 10824**]
   ##. DISPOSITION: [**Hospital Unit Name 10062**] Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-1-21**] 08:41 PM
   Multi Lumen - [**2158-1-21**] 08:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: